US07297795B2
To a mixture of 2-iodo-4-nitroanisole (565 mg, 2.02 mmol) and 2-formylfuran-4-boronic acid pinacol ester (670 mg, 3.03 mmol) in 20 mL of ethylene glycol dimethyl ether and 12 mL of aqueous saturated sodium bicarbonate was added 80 mg of tetrakis(triphenylphosphine)palladium (0). The reaction mixture was heated at reflux overnight then allowed to cool to room temperature and added to a biphasic mixture of 10% methanol in ethyl acetate and water. The solid was collected by filtration, washed with ethyl acetate and water to provide 259 mg (52%) of 4-(2-methoxy-5-nitrophenyl)-2-furaldehyde as a light brown solid, 1H NMR (DMSO-d6) d 4.07 (s, 3H), 7.37 (d, J=9 Hz, 1H), 1H), 8.20-8.29 (m, 2H), 8.55 (d, J=3 Hz, 1H), 8.69 (s, 1H), 9.68 (s, 1H); MS 247.1 (M−H)−.

reactant | 2-iodo-4-nitroanisole | 2.02 mmol, 565 mg | IC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6INO3
reactant | 2-formylfuran-4-boronic acid pinacol ester | 3.03 mmol, 670 mg | C(=O)C=1OC=C(C1)B1OC(C)(C)C(C)(C)O1 | C11H15BO4
reactant | methanol | CO | CH4O
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | sodium bicarbonate | 12 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-methoxy-5-nitrophenyl)-2-furaldehyde | 259 mg, 52% | COC1=C(C=C(C=C1)[N+](=O)[O-])C=1C=C(OC1)C=O | C12H9NO5
